US05416087
B. 1-(9H-FLUOREN-9-YL)-PIPERAZINE
A solution of 9-chlorofluorene (8.4 g), triethylamine (0.85 mL) and piperazine (27 g) in THF (200 mL) was refluxed under argon for 6 hours. It was then filtered and the solvent was removed under vacuum. The crude product was washed with water, chromatographed on silica gel and eluted with 5% MeOH saturated with NH3 in CH2Cl2 to afford the title compound (8.5 g).

reactant | 9-chlorofluorene | 8.4 g | ClC1C2=CC=CC=C2C=2C=CC=CC12 | C13H9Cl
reactant | triethylamine | 0.85 mL | C(C)N(CC)CC | C6H15N
reactant | piperazine | 27 g | N1CCNCC1 | C4H10N2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 1-(9H-FLUOREN-9-YL)-PIPERAZINE | 8.5 g | C1=CC=CC=2C3=CC=CC=C3C(C12)N1CCNCC1 | C17H18N2
